US08420640B2
To a solution of 4-bromo-2-fluoro-1-nitrobenzene (0.5 g, 2.29 mmol) and diisopropyl ethyl amine (1.38 mL, 3.44 mmol) in NMP (5 mL) was added propylamine (0.22 mL, 2.7 mmol). The solution was stirred for 14 h to which was slowly added H2O (5 mL). The resulting yellow precipitate was filtered, washed with 2 mL of water, subjected to high vacuum for drying for 14 h to furnish 5-bromo-2-nitro-N-propylbenzenamine (520 mg, 2.18 mmol), 92% yield, which was used without further purification.

reactant | 4-bromo-2-fluoro-1-nitrobenzene | 2.29 mmol, 0.5 g | BrC1=CC(=C(C=C1)[N+](=O)[O-])F | C6H3BrFNO2
reactant | diisopropyl ethyl amine | 3.44 mmol, 1.38 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | propylamine | 2.7 mmol, 0.22 mL | C(CC)N | C3H9N
reactant | H2O | 5 mL | O | H2O
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
product | 5-bromo-2-nitro-N-propylbenzenamine | 2.18 mmol, 520 mg, 92% yield | BrC=1C=CC(=C(C1)NCCC)[N+](=O)[O-] | C9H11BrN2O2
